US04803218
N-[3-Cyanomethyl-1-methyl-1H-indol-5-yl]urea:
A solution of 7.0 g (0.038 mole) of 1-methyl-5-aminoindole-3-acetonitrile was treated with KOCN as in Example 1 to give a beige solid which was filtered off, washed with cold water and triturated with 50% aq. EtOH to give 6.95 g (80%) of a beige solid: m.p. 250° (dec); nmr (d6 -DMSO) δ(TMS) 8.41 (1, s), 7.65 (1, s), 7.42-7.08 (3, m), 5.73 (2, s, --NH2 --), 4.00 (2, s, --CH2 --) and 3.73 ppm (3H, S, N--CH3).

reactant | 1-methyl-5-aminoindole-3-acetonitrile | 0.038 mole, 7.0 g | CN1C=C(C2=CC(=CC=C12)N)CC#N | C11H11N3
reactant | KOCN | O([K])C#N
product | N-[3-Cyanomethyl-1-methyl-1H-indol-5-yl]urea | 6.95 g, 80% | C(#N)CC1=CN(C2=CC=C(C=C12)NC(=O)N)C | C12H12N4O
